*********************************************************************************
* This netlist tests a capacitor Model in HSPICE
*
*
********************************************************************************

*Analysis directives:
.TRAN  0.1ms 400ms
.PRINT TRAN I(V1) I(R1) I(C1)

R1 2 1 1K
C1 2 0 C1_MOD 40u
.MODEL C1_MOD C C=2 TC1=0 TC2=0

V1  1 0  PULSE(0 1 10U 1U 1U 100m)

.END
