* This netlist included in the PSpice netlist with a 
* backward slash in the .INC statement.

R_R4a         N04173 N04179  10 TC=0,0 
R_R4b         N04179 0  20 TC=0,0 
V_V4         N04173 0  AC 1
+SIN 0 4 1KHz 0 0 0

.END

