* This netlist included in the PSpice netlist with a 
* backward slash in the .INC statement.

R_R2a         N02173 N02179  10 TC=0,0 
R_R2b         N02179 0  20 TC=0,0 
V_V2         N02173 0  AC 1
+SIN 0 2 1KHz 0 0 0

.END

