* This netlist is included in the PSpice netlist with a 
* forward slash in the .INC statement.

R_R3a         N03173 N03179  10 TC=0,0 
R_R3b         N03179 0  20 TC=0,0 
V_V3         N03173 0  AC 1
+SIN 0 3 1KHz 0 0 0

.END

