* This netlist included in the PSpice netlist with a 
* forward slash in the .INC statement.

R_R1a         N01173 N01179  10 TC=0,0 
R_R1b         N01179 0  20 TC=0,0 
V_V1         N01173 0  AC 1
+SIN 0 1 1KHz 0 0 0

