* Xyce netlist for testing Spectre I-Sources.  Note that
* the device "names" in the Spectre netlist are (for example)
* R4 and I44.  However, the Spectre instance lines are of the 
* form:
*
*   R4 (net08 0) resistor r=1K
*   I44 (net08 0) isource dc=1 type=dc
*
* So, on a Spectre instance line, it is the "resistor" and "isource" 
* keywords that identify the devices as Resistors or Current Sources.
* So, the xdm translation will turn those devices into RR4 and II44 
* in the translated Xyce netlist.  For this reason, the device names 
* in this "Gold" Xyce netlist are (for example) RR4 and II44, to match
* what the device names will be in the xdm-translated Xyce netlist.

*Analysis directives: 
.TRAN  0 1ms 0
.PRINT TRAN I(RR1) I(RR2) I(RR3) I(RR4) I(RR5) I(RR6) I(RR7)

**********************************************************
*AC Source syntaxes 
**********************************************************
*SIN source, no DC offset.  1V amplitude.  Freq. of 1KHz
RR1        net8 0  1K 
II11       net8 0 SIN(0 1 1KHz 0 0 0)

* With DC Offset of 1A
RR5        net6 0  1K 
II55       net6 0 SIN(1 1 1KHz 0 0 0)

* With DC Offset of 1A
RR7        net7 0  1K 
II77       net7 0 SIN(1 1 1KHz 0 0 0)

* Pulse source.  Xyce parameters within pulse( ) spec are:
* V1 (initial value), V2 (pulse value), TD (delay time),
* TR (rise time), TF (fall time), PW (pulse width) and PER (period)
II66 net12 0 pulse(1 10 50e-6 50e-6 70e-6 200e-6 400e-6) 
RR6 net12 0 R=1K

* Exp source.  Xyce parameters within exp() spec are:
* V1 (initial amplitude), V2 (amplitude), TD1 (rise delay time),
* TAU1 (rise time constant), TD2 (fall delay time) and
* TAU2 (fall time constant)
II44       net08 0  exp(0 1 100e-6 20e-6 600e-6 40e-6) 
RR4        net08 0  1k 

****************************************************
* DC source syntaxes
****************************************************
RR2        net06 0  1k 
II22       net06 0  5

RR3        net010 0  1k 
II33       net010 0  1

.END

