*********************************************************************
* Xyce netlist for testing that:
*
*   1) Spectre statistics lines are properly commented out by xdm.  
*
*   2) Spectre parameters not in a subcircuit definition are properly
*      translated by xdm.
*  
* A simple V-R-R circuit suffices. See SRN Bugs 2088 and 2089 for 
* more details. 
*
*
*********************************************************************

*Analysis directives: 
.TRAN  0 1ms 0
.PRINT TRAN V(net7) V(V2) 

* Note the Spectre netlist has more parameters, because some of
* them are needed to make the Spectre statistics line "legal"
* in Spectre.  Only s1 and s2 are used in the Gold Xyce netlist
.PARAM S1=1
.PARAM S2=2

RR1        net7 V2 {S1} 
RR2        0 V2 {S2} 
VV1        net7 0 SIN(0 1 1KHz 0 0 0)

.END

