******************************************************************************
* Xyce netlist for testing Spectre netlist lines that are not supported 
* in Xyce.  So, the contents of this Xyce netlist doesn't really matter, 
* other than that it matches the circuit in the Spectre netlist.
*
*
* See SRN Bug 2053 for more details on which Spectre netlist lines are
* not supported in Xyce.
******************************************************************************

*Analysis directives: 
.TRAN  0 1ms 0
.PRINT TRAN V(V2)

* A simple voltage divider circuit with an AC source suffices to prove
* that the translated Xyce netlist actually runs in Xyce.
RR1        net7 V2  1k 
RR2        0 V2 2K 
VV1        net7 0 SIN(0 1 1KHz 0 0 0)

.END

